US06825220B2
A mixture of 3-isopropylidene-4-methoxy-1,3-dihydro-indol-2-one (700 mg, 3.4 mmol) and 5% palladium on carbon (88 mg) in ethanol (25 mL) is hydrogenated at 60 psi overnight. Filtration and removal of the solvent in vacuo provided 560 mg (79%) of 3-isopropyl-4-methoxy-1,3-dihydro-indol-2-one. MS (ESI+) 206.

reactant | 3-isopropylidene-4-methoxy-1,3-dihydro-indol-2-one | 3.4 mmol, 700 mg | C(C)(C)=C1C(NC2=CC=CC(=C12)OC)=O | C12H13NO2
catalyst | palladium on carbon | 88 mg | [Pd] | Pd
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 3-isopropyl-4-methoxy-1,3-dihydro-indol-2-one | 560 mg, 79% | C(C)(C)C1C(NC2=CC=CC(=C12)OC)=O | C12H15NO2
